US05451604
Step (a): Preparation of 2-fluoro-α-(1-methylethyl)benzeneacetonitrile
A mixture of 2-fluorophenylacetonitrile (10.0 g, 74.1 mmoles), 50% aqueous sodium hydroxide (5.2 g), sodium hydroxide (741 mg), tetra-n-butylammonium chloride (3.3 g), and 2-bromopropane (10.0 g, 81.5 mmoles) was stirred rapidly while heating from room temperature to 60°-65°. The temperature was increased to 90°-95 and so maintained for 1.0 hour. After cooling, the mixture was partitioned between diethyl ether and water. The organic layer was washed with brine, dried over sodium sulfate, filtered, and the solvent evaporated. Chromatography of the residue over silica gel using 30% methylene chloride-hexane as eluent gave a compound (9.35 g) as a water-white oil which was characterized by NMR, as follows: 1H NMR(CDCl3) d 7.51-7.00 (m, 4H), 3.99 (d, 1H), 2.22 (m, 1H), 1.06 (d, 1H).

reactant | 2-fluorophenylacetonitrile | 74.1 mmoles, 10.0 g | FC1=C(C=CC=C1)CC#N | C8H6FN
reactant | sodium hydroxide | 5.2 g | [OH-].[Na+]
reactant | sodium hydroxide | 741 mg | [OH-].[Na+]
reactant | 2-bromopropane | 81.5 mmoles, 10.0 g | BrC(C)C | C3H7Br
catalyst | tetra-n-butylammonium chloride | 3.3 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2-fluoro-α-(1-methylethyl)benzeneacetonitrile | 9.35 g | FC1=C(C=CC=C1)C(C#N)C(C)C | C11H12FN
